Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfonamides / Zestril
 
Attending: ___.
 
Chief Complaint:
left shoulder pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female with CAD s/p MI s/p 3v CABG (___), HTN, HPL, 
DM II presenting with acute left arm pain. The patient stated 
that she was lying in bed today when she experienced crushing 
left lateral arm pain. No other associated symptoms - no nausea, 
diaphoresis, SSCP. Reports mild SOB. The patient took SL NTG x 1 
which resolved pain in five minutes. An hour later it came back 
and she took another nitroglycerin. She is followed by Dr. ___ 
___.  
.  
The patient presented to the ED with initial VS 98.5 77 101/67 
18 100% on 3L. Pt was weaned to RA in the ED. Labs unremarkable. 
CXR was unremarkable. ED spoke to cardiology fellow who 
recommended starting heparin gtt.  
.  
On transfer, patient's VS were stable. On arrival patient's arm 
discomfort was resolved. Denied N, V, D, CP, SOB on arrival to 
floor.  
.  
Cardiac review of systems is notable for absence dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.
 
Past Medical History:
Cardiac Risk Factors: DM, Dyslipidemia, Hypertension  
.  
Cardiac History:  
s/p MI ___: 3.0X13mm stent to mLAD, 2.5X13mm stent to pLCX  
CABG, in ___ anatomy as follows: LIMA to LAD, SVG to rPDA, rPL 
(sequential grafting)  
.  
Percutaneous coronary intervention, in *** anatomy as follows:  
.  
Pacemaker/ICD: None  
.  
Other Past History:  
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections)  
h/o R Knee Replacement ___ yrs ago
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
VS - 98.1, 122/73, 101/67, 18, 100%RA  
Gen: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 7 cm.  
CV: RR, normal S1, S2. II/VI HSM at apex. No thrills, lifts. No 
S3 or S4.  
Chest: CTAB, no crackles, wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness.  
Ext: No c/c/e.  
Pulses:  
Right: DP 1+ ___ 1+  
Left: DP 1+ ___ 1+  
 
Pertinent Results:
LABS ON ADMISSION:
___ 05:20PM BLOOD WBC-8.7 RBC-4.41 Hgb-13.6 Hct-39.9 MCV-91 
MCH-31.0 MCHC-34.2 RDW-13.5 Plt ___
___ 05:20PM BLOOD Neuts-72.1* ___ Monos-3.5 Eos-1.5 
Baso-1.1
___ 05:20PM BLOOD ___ PTT-21.6* ___
___ 05:20PM BLOOD Glucose-278* UreaN-14 Creat-0.7 Na-139 
K-3.8 Cl-101 HCO3-27 AnGap-15
___ 11:18PM BLOOD CK(CPK)-63
___ 05:20PM BLOOD cTropnT-<0.01
___ 11:18PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 06:00AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.8
.
LABS ON DISCHARGE:
___ 06:00AM BLOOD WBC-7.9 RBC-4.34 Hgb-12.9 Hct-37.9 MCV-87 
MCH-29.8 MCHC-34.2 RDW-14.3 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-166* UreaN-12 Creat-0.6 Na-139 
K-3.3 Cl-103 HCO3-26 AnGap-13
___ 06:00AM BLOOD CK(CPK)-47
___ 06:00AM BLOOD CK-MB-NotDone cTropnT-<0.01
.
NUCLEAR STRESS:
IMPRESSION: Borderline normal LVEF of 49%. No perfusion or 
motion abnormalities seen within study limitations from 
significant soft tissue attenuation.
.
IMPRESSION: No significant ST segment changes or anginal 
symptoms to 
persantine infusion. Atrial and ventricular ectopy as outlined. 
Nuclear 
report sent separately.
 
Brief Hospital Course:
___ y/o F with a history of CAD s/p MI and CABG x 3 (___), HTN, 
HPL, who presents with left shoulder pain, concern for unstable 
angina.  
.  
# CAD: left shoulder pain, and initial concern for unstable 
angina. Patient with CAD s/p MI and CABG with LIMA to LAD and 
sequential grafting of SVG to rPL and rPDA. Patient states she 
has been stable for many years since CABG. Patient's L arm 
squeezing at rest and intermittant relief with SL NTG is 
concerning for unstable angina. Patient was started in ED on 
Heparin gtt. However, this was discontinued when cardiac enzymes 
were negative x 3 and EKG was without signs of ischemic changes. 
Patient was also continued on aspirin 325 mg daily, BB, statin. 
She underwent pMIBI stress test which showed no significant ST 
segment changes or anginal symptoms to persantine infusion. Her 
left shoulder pain was not reproduced. No perfusion or motion 
abnormalities were seen within study limitations from 
significant soft tissue attenuation. No medication changes were 
made on discharge, and etiology for left shoulder pain was not 
felt to be ACS/UA but rather MSK etiology.
.  
# Pump: Euvolemic on exam. Lungs clear, JVP 7cm. No ___ edema. 
Patient was continued on home regimen for cardiac meds. 
.  
# Rhythm: NSR with ventricular bigeminy/APCs. No other 
concerning features on telemetry or EKG.  
.  
# HTN: patient was continued on BB and lasix, as per home 
regimen.
.
# DM II: continued on insulin sliding scale; discharged with 
home glipizide regimen.
.  
# Dispo: discharged to home, PCP ___ arranged
 
___ on Admission:
ASA 162mg daily  
Simvastatin 40mg daily  
Neurontin 200mg, 200mg, 300mg qHS  
Glipizide 10mg qAM, 5mg qPM  
Furosemide 40mg daily  
Atenolol 100mg daily  
 
Discharge Medications:
1. Aspirin 162 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
2. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Gabapentin 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day).  
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
5. Glipizide 10 mg Tablet Sig: One (1) Tablet PO qAM.  
6. Glipizide 5 mg Tablet Sig: One (1) Tablet PO qPM.  
7. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed for nasal congestion.
Disp:*1 vial* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
1. left arm pain
.
SECONDARY:
1. coronary artery disease
2. diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent with minimal assist

 
Discharge Instructions:
You were admitted to the hospital for left arm pain which was 
concerning for acute coronary syndrome/unstable angina. However, 
your cardiac enzymes were not suggestive of a heart attack/heart 
damage, and your EKG did not show any changes from prior. In 
addition, you underwent cardiac stress testing, which was not 
suggestive of any progression of your underlying heart disease.
.
NEW MEDICATIONS/MEDICATION CHANGES:
- none
.
Please seek medical attention for chest pain, shortness of 
breath, fevers, abdominal pain, or any other concerning 
symptoms.
 
Followup Instructions:
___